US07179823B1
A mixture of ethyl 1-(4-phenoxybenzyl)-3-(4-phenoxybenzyloxy)-1H-pyrazole-4-carboxylate (21.50 g), 5% palladium-carbon (10.43 g) and tetrahydrofuran (300 ml) was stirred overnight under a hydrogen atmosphere. After the palladium-carbon was removed by filtration, the filtrate was concentrated to obtain ethyl 3-hydroxy-1-(4-phenoxybenzyl)-1H-pyrazole-4-carboxylate (13.35 g, yield 96%) as colorless crystals. This was recrystallized from acetone-hexane. Melting point: 117–118° C.

reactant | ethyl 1-(4-phenoxybenzyl)-3-(4-phenoxybenzyloxy)-1H-pyrazole-4-carboxylate | 21.50 g | O(C1=CC=CC=C1)C1=CC=C(CN2N=C(C(=C2)C(=O)OCC)OCC2=CC=C(C=C2)OC2=CC=CC=C2)C=C1 | C32H28N2O5
catalyst | palladium-carbon | 10.43 g | [C].[Pd]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | ethyl 3-hydroxy-1-(4-phenoxybenzyl)-1H-pyrazole-4-carboxylate | 13.35 g, yield 96% | OC1=NN(C=C1C(=O)OCC)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C19H18N2O4
